*** SPICE deck for cell inv_X8{sch} from library proj2
*** Created on Fri Apr 10, 2026 18:02:35
*** Last revised on Wed May 06, 2026 23:27:40
*** Written on Wed May 06, 2026 23:27:44 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
*** Lambda Conversion ***
.opt scale=0.022U

* Model cards described in this file:
.include /Users/tmarhguy/Downloads/22nm_HP.pm

.global gnd vdd

*** TOP LEVEL CELL: inv_X8{sch}
Mnmos@0 Y A gnd gnd N L=2 W=12
Mpmos@0 Y A vdd vdd P L=2 W=24

* Spice Code nodes in cell cell 'inv_X8{sch}'
* inv_X8 unit test
Vdd vdd 0 DC 1.0
Cload y 0 13f
* Pulse input
Va a 0 PULSE(0 1.0 1n 10p 10p 990p 2n)
.control
tran 5p 4n
* tphl: Y falls when A rises (event at t=1ns)
meas tran tphl trig v(a) val=0.5 rise=1 targ v(y) val=0.5 fall=1
* tplh: Y rises when A falls (event at t=2ns)
meas tran tplh trig v(a) val=0.5 fall=1 targ v(y) val=0.5 rise=1
* --- Custom Terminal Output ---
echo " "
echo "========================================"
echo "       INV_X8 Propagation Delays"
echo "========================================"
print tphl tplh
echo " "
set hcopydevtype=svg
hardcopy waveforms/inv_x8.svg v(a)+2 v(y) title 'inv_x8'
plot v(a)+2 v(y) title 'inv_x8'
.endc
.end
.END
